US07253165B2
Synthesis of {3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propyl}-thiophen-3-ylmethyl-amine (Scheme III, Compound 1b)
The title compound is prepared from a mixture of 3-[4-(3-bromo-propoxy)-phenyl]-6-fluoro-benzo[d]isoxazole, thiophen-3-yl-methylamine hydrochloride (Table No. 1, SM 1), potassium carbonate, potassium iodide and 4% aqueous acetonitrile essentially as described above in Example 13 except that 3.2 equivalents of potassium carbonate is used. Purity by LC/MS=95%, [M+H]+=383.

reactant | 3-[4-(3-bromo-propoxy)-phenyl]-6-fluoro-benzo[d]isoxazole | BrCCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C16H13BrFNO2
reactant | thiophen-3-yl-methylamine hydrochloride | Cl.S1C=C(C=C1)NC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | potassium carbonate | 3.2 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
product | {3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propyl}-thiophen-3-ylmethyl-amine | FC1=CC2=C(C(=NO2)C2=CC=C(OCCCNCC3=CSC=C3)C=C2)C=C1 | C21H19FN2O2S
